US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 6-methoxyindan-1-carboxylic acid (0.5 g) and [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine (0.7 g) as starting materials, N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-6-methoxyindan-1-carboxamide (0.53 g) was obtained.

reactant | 6-methoxyindan-1-carboxylic acid | 0.5 g | COC1=CC=C2CCC(C2=C1)C(=O)O | C11H12O3
reactant | [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine | 0.7 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C)C | C18H24N2
product | N-[(4-dimethylaminophenyl)methyl]-N-(4-isopropylphenyl)-6-methoxyindan-1-carboxamide | 0.53 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCC2=CC=C(C=C12)OC)C1=CC=C(C=C1)C(C)C)C | C29H34N2O2
